US04496580
4-(4,10-Dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)butyl trifluoroacetate
A stirred suspension of 14.33 g (0.0468 mol) of 3-[4-(1-hydroxybutyl)phenoxy]methyl-2-thiophenecarboxylic acid and 150 ml of anhydrous CH2Cl2 was treated with one portion of trifluoroacetic anhydride (22.60 g, 0.107 mol). The suspended material rapidly dissolved and the stirred solution was heated under reflux for four hours. After standing two days at ambient temperature, the reaction was quenched with water (70 ml) and washed with 50 ml of 5% NaHCO3 solution. The dried (Na2SO4) organic phase was concentrated to an oil, which was further dried by azeotropic distillation of toluene. The oil was dissolved in approximately 15 ml of isopropanol, seeded with product previously prepared on a smaller scale, and stirred until a thick crystalline mass formed. The mass was triturated with isopropanol, followed by vacuum filtration. The filter cake was dried in vacuo at 40° C. to afford 15.08 g (83.8%) of almost colorless crystals, m.p. 65.5°-67° C. The material appeared pure by TLC (silica gel, ethyl acetate, Rf =0.70; dichloromethane, Rf =0.51) and the IR (KBr), 1H-NMR (CDCl3) and MS (M+,384) were consistent with structure.

reactant | 3-[4-(1-hydroxybutyl)phenoxy]methyl-2-thiophenecarboxylic acid | 0.0468 mol, 14.33 g | OC(CCC)C1=CC=C(OCC2=C(SC=C2)C(=O)O)C=C1 | C16H18O4S
reactant | trifluoroacetic anhydride | 0.107 mol, 22.60 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | KBr | [K+].[Br-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-(4,10-Dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)butyl trifluoroacetate | FC(C(=O)OCCCCC=1C=CC2=C(C(C3=C(CO2)C=CS3)=O)C1)(F)F | C18H15F3O4S
